US07906546B2
0.924 g (0.002 mol) of (RS, SR)-2-benzenesulfonyl-2-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-2-fluoro-N-methyl-acetamide were dissolved in 20 mL CH2Cl2 at RT. Then, 0.59 mL triethylamine (0.004 mol, 2 eq), 26 mg DMAP (0.2 mmol, 0.1 eq) and 0.556 g BOC2O (0.003 mol, 1.2 eq) were added. The reaction mixture was stirred for 2H30. The reaction was quenched with a saturated NH4Cl aqueous solution, and the product extracted with CH2Cl2. The combined organic phases were dried on Na2SO4, filtered and evaporated. The crude material was precipitated in diethyl ether. The solvent was removed and the remaining solid was dried under vaccum to yield to 0.840 g (74%) of (RS, SR)-2-(benzenesulfonyl-fluoro-methylcarbamoyl-methyl)-6-chloro-1,2,3,4-tetrahydro-carbazole-9-carboxylic acid tert-butyl ester as a white solid, MS: 552 (MNH4+).

reactant | (RS, SR)-2-benzenesulfonyl-2-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-2-fluoro-N-methyl-acetamide | 0.002 mol, 0.924 g | C1(=CC=CC=C1)S(=O)(=O)C(C(=O)NC)(F)C1CC=2NC3=CC=C(C=C3C2CC1)Cl | C21H20ClFN2O3S
reactant | triethylamine | 0.004 mol, 0.59 mL, 2 eq | C(C)N(CC)CC | C6H15N
reactant | BOC2O | 0.003 mol, 0.556 g, 1.2 eq | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.2 mmol, 26 mg, 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | (RS, SR)-2-(benzenesulfonyl-fluoro-methylcarbamoyl-methyl)-6-chloro-1,2,3,4-tetrahydro-carbazole-9-carboxylic acid tert-butyl ester | 0.840 g, 74% | C(C)(C)(C)OC(=O)N1C2=CC=C(C=C2C=2CCC(CC12)C(C(NC)=O)(F)S(=O)(=O)C1=CC=CC=C1)Cl | C26H28ClFN2O5S
